US04628057
(3RS)-2-[(Ethoxycarbonylmethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
In the same manner as described in Example 6, (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (2.16 g), 10N NaOH (2 ml), dimethylsulfoxide (6 ml), carbon disulfide (912 mg) and ethyl bromoacetate (2.0 g) are reacted. The product is recrystallized from ethanol to give the title compound (1.41 g, 65%) as colorless needles, m.p. 190°-192° C.

reactant | (3RS)-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.16 g | C1NC(CC=2C3=CC=CC=C3NC12)C(=O)O | C12H12N2O2
reactant | NaOH | 10N, 2 ml | [OH-].[Na+]
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
reactant | ethyl bromoacetate | 2.0 g | BrCC(=O)OCC | C4H7BrO2
reactant | carbon disulfide | 912 mg | C(=S)=S | CS2
product | (3RS)-2-[(Ethoxycarbonylmethylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.41 g, 65% | C(C)OC(=O)CSC(=S)N1CC=2NC3=CC=CC=C3C2CC1C(=O)O | C17H18N2O4S2
